US06897224B2
2-Acetylamino-5-aminoquinoline
400 mg (1.7 mmol) of 2-acetylamino-5-nitroquinoline and 105 mg of 10% Pd—C are stirred in 20 ml of ethyl acetate-MeOH (3:1) for 4 hours in a hydrogen atmosphere at room temperature. The batch is filtered, concentrated by evaporation and purified by column chromatography on silica gel with hexane-ethyl acetate: 210 mg of product.

reactant | 2-acetylamino-5-nitroquinoline | 1.7 mmol, 400 mg | C(C)(=O)NC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C11H9N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate MeOH | 20 ml | C(C)(=O)OCC.CO
catalyst | Pd—C | 105 mg | [Pd] | Pd
product | 2-Acetylamino-5-aminoquinoline | C(C)(=O)NC1=NC2=CC=CC(=C2C=C1)N | C11H11N3O
